US07091227B2
1-(6-(3-Aminophenyl)-2-benzothiazolyl)-3-ethylurea
A suspension of 1-(6-bromo-2-benzothiazolyl)-3-ethylurea (0.300 g, 1.00 mmol), 3-aminophenyl boric acid (0.237 g, 1.50 mmol, 1.5 eq), and sodium bicarbonate (0.210 g, 2.50 mmol, 2.5 eq) in 8 mL of mixed solvent DMF/water (5/1) was purged with nitrogen gas. To the mixture, the catalyst Pd(PPh3)4 (0.058 g, 0.05 mmol, 0.05 eq) was added. It was purged with nitrogen gas again, and was heated at about 100° C. in a sealed tube for about 48 hours. More Pd(PPh3)4 (0.025 g, 0.02 mmol, 0.02 eq) and more boric acid (0.080 g, 0.50 mmol, 0.50 eq) were added after the first 24 hours. The mixture was taken up in MeOH, concentrated, dissolved in methylene chloride, washed with sodium bicarbonate solution, dried (MgSO4), evaporated, and purified by flash chromatography on SiO2 with MeOH and methylene chloride (1/50) to give the desired compound 0.073 g (23%). LC/MS 313.2 (M+1); LC retention time 2.11 min.

reactant | 1-(6-bromo-2-benzothiazolyl)-3-ethylurea | 1.00 mmol, 0.300 g | BrC1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C10H10BrN3OS
reactant | 3-aminophenyl boric acid | 1.50 mmol, 0.237 g, 1.5 eq | NC=1C=C(C=CC1)OB(O)O | C6H8BNO3
reactant | sodium bicarbonate | 2.50 mmol, 0.210 g, 2.5 eq | C([O-])(O)=O.[Na+]
reactant | boric acid | 0.50 mmol, 0.080 g, 0.50 eq | B(O)(O)O | BH3O3
solvent | MeOH | CO | CH4O
catalyst | Pd(PPh3)4 | 0.05 mmol, 0.058 g, 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.02 mmol, 0.025 g, 0.02 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF water | CN(C)C=O.O
product | 1-(6-(3-Aminophenyl)-2-benzothiazolyl)-3-ethylurea | 0.073 g, 23% | NC=1C=C(C=CC1)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C16H16N4OS
